US08809369B2
The mixture solution of 2-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide (158.4 mg, 0.34 mmol), copper(I) iodide (20.0 mg, 0.1 mmol), N,N-dimethylglycine hydrochloride (37.5 mg, 0.27 mmol), morpholine (0.78 mL, 9.0 mmol) and potassium carbonate (140.0 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-(3-fluoro-5-morpholin-4-yl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide (64.3 mg, 40.0%) as a white solid: MS (ESI) M+1=474.2.

reactant | 2-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide | 0.34 mmol, 158.4 mg | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC(=C1)F)Br)(C)C | C21H24BrFN2O2S
reactant | N,N-dimethylglycine hydrochloride | 0.27 mmol, 37.5 mg | Cl.CN(CC(=O)O)C
reactant | morpholine | 9.0 mmol, 0.78 mL | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 1.0 mmol, 140.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20.0 mg | [Cu]I
product | 2-(3-fluoro-5-morpholin-4-yl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide | 64.3 mg, 40.0% | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC(=C1)N1CCOCC1)F)(C)C | C25H32FN3O3S
